US04783472
The 3-(3-pyridyloxy)aniline is prepared as follows: ferric chloride (0.4 g) is added, at a temperature between 90° and 98° C., to a suspension of 3-(3-pyridyloxy)nitrobenzene (16.2 g) and iron powder (37.5 g) in distilled water (40 cc) which is heated to a temperature in the vicinity of 90° C. The suspension obtained is heated at a temperature in the vicinity of 98° C. for 1 hour and 15 minutes and then stirred at a temperature in the vicinity of 20° C. for 16 hours, treated with methylene chloride (550 cc) and distilled water (75 cc) and filtered. The organic phase is separated, dried over anhydrous magnesium sulphate, treated with decolourizing charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. A crude oil (13.1 g) is thereby obtained which is chromatographed on a 6 cm diameter column containing silica (0.02-0.045 mm; 450 g). Elution is carried out with mixtures of ethyl acetate and cyclohexane at a pressure of 0.4 bar (40 kPa), collecting 150 cc fractions. The first 15 fractions originating from elution with an ethyl acetate:cyclohexane (50:50 by volume) mixture are discarded. The following 5 fractions originating from elution with an ethyl acetate:cyclohexane (50:50 by volume) mixture and the following 5 fractions originating from elution with pure ethyl acetate are combined and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature in the vicinity of 60° C. 3-(3-pyridyloxy)aniline in the form of an orange-yellow liquid [Rf=0.25; silica gel thin layer chromatography; eluant: cyclohexane:ethyl acetate (50:50 by volume)] is thereby obtained.

reactant | 3-(3-pyridyloxy)nitrobenzene | 16.2 g | N1=CC(=CC=C1)OC=1C=C(C=CC1)[N+](=O)[O-] | C11H8N2O3
reactant | methylene chloride | 550 cc | C(Cl)Cl | CH2Cl2
solvent | water | 40 cc | O | H2O
catalyst | iron | 37.5 g | [Fe] | Fe
product | 3-(3-pyridyloxy)aniline | N1=CC(=CC=C1)OC=1C=C(N)C=CC1 | C11H10N2O
